US05935972
4-(7-[1,3]Dioxan-2-yl-benzofuran-5-yl)-2H-[1,2,3]triazole
A mixture of 7-[1,3]dioxan-2-yl-5-ethynyl-benzofuran (247 mg) and tributylstannanyl azide (717 mg) was heated at 140° in a sealed vessel for 24 h. Purification by FCC eluting with hexane:ethyl acetate 2:1 gave the title compound as a yellow oil (80 mg).

reactant | 7-[1,3]dioxan-2-yl-5-ethynyl-benzofuran | 247 mg | O1C(OCCC1)C1=CC(=CC=2C=COC21)C#C | C14H12O3
reactant | tributylstannanyl azide | 717 mg | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
product | 4-(7-[1,3]Dioxan-2-yl-benzofuran-5-yl)-2H-[1,2,3]triazole | 80 mg | O1C(OCCC1)C1=CC(=CC=2C=COC21)C2=NNN=C2 | C14H13N3O3
